US07893088B2
A solution of boron tribromide (18.2 ml, 370 mmol) in 20 ml dichloromethane was added dropwise to a stirred solution of 1-amino-6-methoxyisoquinoline (11.0 g, 63 mmol) in 150 ml of dichloromethane at 10° C. After stirring for 4 days at ambient temperature the reaction mixture was poured into ice and the pH was adjusted to 9 by adding concentrated aqueous ammonia. The precipitated material was collected by filtration and dried in vacuo to give 1-amino-6-hydroxyisoquinoline (8.9 g, 88%), EI-MS: 160 [M]+

reactant | boron tribromide | 370 mmol, 18.2 ml | B(Br)(Br)Br | BBr3
reactant | 1-amino-6-methoxyisoquinoline | 63 mmol, 11.0 g | NC1=NC=CC2=CC(=CC=C12)OC | C10H10N2O
reactant | ammonia | N | H3N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 1-amino-6-hydroxyisoquinoline | 8.9 g, 88% | NC1=NC=CC2=CC(=CC=C12)O | C9H8N2O
